* Z:\home\yuki\Documents\Projects\EEE3-Instrumentation\Simulations\Vamp.asc
* Generated by LTspice 26.0.1 for Windows.
V1 +18V 0 18
V2 0 -18V 18
V3 3.3V 0 3.3
X§U2 N001 1.65V +18V -18V 1.65V OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R1 3.3V N001 10k
R2 N001 0 10k
X§U9 HPOT 0 +18V -18V N006 N009 NC_01 NC_02 INA828 ;§pnba IN+)IN-)VCC)VEE)OUT)REF)RG+)RG-
R14 N008 N006 2700k
R15 N008 NC_03 300k
R16 N008 NC_04 27k
R17 N008 NC_05 2.7k
X§U10 1.65V N008 +18V -18V N009 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
C2 N009 N008 5.6n
R18 N006 N003 39k
X§U11 1.65V N003 +18V -18V N002 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R19 N003 N002 100k
C3 N003 N002 2.2p
R21 N006 N003 13.5k
R20 N004 N002 42.9k
C4 N004 N002 7p
R22 N003 N002 11.1k
C5 N003 N002 22p
R23 N002 N005 11k
C6 N005 1.65V 56p
X§U12 N005 N007 +18V -18V V_MEAS OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R24 N007 N010 1k
R25 V_MEAS N007 9k
V4 HPOT 0 AC 1
* .tran 1m
* .dc V4 0 3.3 0.01
.ac dec 10 1 10000k
* Library below included based on ModelFile attribute of instance X§U9 (C:\users\yuki\Documents\LTspice\lib\sym\INA828.asy)
.lib INA828.LIB
* Library below included based on ModelFile attribute of instance X§U2, X§U10, X§U11, X§U12 (C:\users\yuki\Documents\LTspice\lib\sym\OPAx197.asy)
.lib OPAx197.LIB
.backanno
.end
