* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Coursework Assignment 1 sims\Draft1.asc
XU1 N001 0 N002 opamp Aol=100k GBW={gainbandwidth}
V1 N003 0 SINE(0) AC AC
R1 N001 N003 100k
L1 N001 N004 0
C1 N001 N004 0
R2 N002 N001 {Rg}
* DUT
.step dec param f 10 10Meg 10
.ac dec 10 10 1M
.step param Rg list 1k 100k 100Meg
.lib opamp.sub
.step param gainbandwidth list 15920 1592 159.2
.backanno
.end
