* C:\users\yuki\Documents\Projects\EEE3-Instrumentation\Simulations\InAmpStage2\Draft1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N002 N001 9.09k
R2 P001 N001 11k
R3 N004 N002 49.9k
R4 N004 N003 5.5k
V1 +15V 0 15
V2 +3.6V 0 3.6
V3 0 -15V 15
V4 +1.8V 0 1.8
V5 N001 0 SINE(1.8 0.1 10k) AC 1 0
X§U1 +3.6V N003 N002 -15V +15V 0 ADG1412 ;§pnba IN)S)D)Vss)Vdd)GND
X§U2 0 N002 P001 -15V +15V 0 ADG1412 ;§pnba IN)S)D)Vss)Vdd)GND
C1 N004 N002 2.2p
C2 N004 N003 27p
R5 N005 N004 11.1k
R6 N007 N005 23.2k
C3 N007 +1.8V 36p
C4 N006 N005 91p
X§U5 N007 N006 +3.6V 0 N006 OP4177 ;§pnba In+)In-)V+)V-)OUT
X§U3 +1.8V N002 +3.6V 0 N004 OP4177 ;§pnba In+)In-)V+)V-)OUT
.ac dec 100 1k 10Meg
* .tran 5m
.lib opamp.sub
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\yuki\AppData\Local\LTspice\lib\sym\Switches\ADG1412.asy)
.lib ADG1412.sub
* Library below included based on ModelFile attribute of instance X§U5, X§U3 (C:\users\yuki\AppData\Local\LTspice\lib\sym\OpAmps\OP4177.asy)
.lib ADI1.lib
.backanno
.end
