* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Mini Driver\driver.asc
V1 N003 0 PULSE(0 3.3 0 100n 100n 400n 1u)
V2 V+ 0 12
M1 N002 N003 0 0 2N7002
L1 V+ N001 10µ
R1 N001 N002 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 5u 0 1u
.model D D(Ron=1m Roff=10Meg Vfwd=0.75 Vrev=100)
.lib opamp.sub
.backanno
.end
