* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Partial Sim\partial.asc
V1 +18V 0 18
V2 0 -18V 18
V3 3.3V 0 3.3
XU9 HPOT LPOT +18V -18V N003 1.65V NC_01 NC_02 INA828
R18 N003 N001 39k
XU11 1.65V N001 +18V -18V N002 OPAx197
R19 N001 N002 100k
C3 N001 N002 2.2p
R23 N002 N004 11k
C6 N004 1.65V 56p
XU12 N004 N005 +18V -18V Vout OPAx197
R24 N005 1.65V 1k
R25 Vout N005 9k
XU13 0 LPOT +18V -18V N006 OPAx197
XU16 N006 0 +18V -18V N009 1.65V NC_03 NC_04 INA828
R38 N009 N007 39k
XU18 1.65V N007 +18V -18V N008 OPAx197
R39 N007 N008 100k
C12 N007 N008 2.2p
R43 N008 N010 11k
C15 N010 1.65V 56p
XU19 N010 N011 +18V -18V Iout OPAx197
R44 N011 1.65V 1k
R45 Iout N011 9k
V4 HPOT 0 SINE(1.65 1.65) AC 1
V5 1.65V 0 1.65
R1 LPOT HPOT 1k
R2 LPOT N006 10k
* .tran 1m
* .dc V4 0 3.3 0.01
.ac dec 10 1 10000k
.lib INA828.LIB
.lib OPAx197.LIB
.backanno
.end
