*
X§U1 N008 0 N009 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U2 N005 N001 N002 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R1 N002 N005 100k
R2 N008 N009 100k
V1 N001 0 AC 1
R3 N003 N002 10k
R4 N004 N003 10k
R5 N007 N009 10k
R6 0 N007 10k
X§U3 N007 N003 N004 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R7 N006 N005 100k
C1 N006 N008 100n
.ac dec 100 0.01 1Meg
.lib opamp.sub
.backanno
.end
