* Z:\home\yuki\Documents\Projects\EEE3-Instrumentation\Simulations\fr this time\Top.asc
* Generated by LTspice 26.0.1 for Windows.
V1 +18V 0 18
V2 0 -18V 18
V3 3.3V 0 3.3
V4 N001 0 SINE(0 1 10k) AC 1
X§X1 NC_01 NC_02 NC_03 NC_04 N002 N003 V Vamp
X§X3 NC_05 NC_06 NC_07 NC_08 3.3V NC_09 NC_10 NC_11 N003 I Iamp
R2 N001 N002 100
C1 N002 N003 220µ V=25 Irms=8.48 Rser=0.0419581 Lser=2n

* block symbol definitions
.subckt Vamp /4 x10 x100 x3 HPOT LPOT V_MEAS
V1 +18V 0 18
V2 0 -18V 18
V3 3.3V 0 3.3
X§U2 N001 1.65V +18V -18V 1.65V OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R1 3.3V N001 10k
R2 N001 0 10k
X§U9 HPOT LPOT +18V -18V N009 N013 NC_01 NC_02 INA828 ;§pnba IN+)IN-)VCC)VEE)OUT)REF)RG+)RG-
R14 N012 N009 2700k
R15 N012 NC_03 300k
R16 N012 NC_04 27k
R17 N012 NC_05 2.7k
X§U10 1.65V N012 +18V -18V N013 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
C2 N013 N012 5.6n
R18 N009 N006 39k
X§U11 1.65V N006 +18V -18V N004 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R19 N006 N004 100k
C3 N006 N004 1p
R21 N009 N011 13.5k
R20 N007 N004 42.9k
C4 N007 N004 5p
R22 N005 N004 11.1k
C5 N005 N004 14p
R23 N004 N008 11k
C6 N008 1.65V 56p
X§U12 N008 N010 +18V -18V V_MEAS OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R24 N010 N014 1k
R25 V_MEAS N010 9k
S1 N006 N005 N002 0 SW
S2 N006 N007 x3 0 SW
S3 N011 N006 N003 0 SW
S4 1.65V N014 x100 0 SW
R3 /4 0 10k
R4 0 x3 10k
R5 x10 0 10k
R6 0 x100 10k
Q1 N003 /4 0 0 NPN
R7 3.3V N003 10k
Q2 N002 x10 0 0 NPN
R8 3.3V N002 10k
.model SW SW(Ron=0.01, Roff=10G, Vt=1.65)
.ends Vamp

.subckt Iamp /4 100 100k 10k 1k x10 x100 x3 LCURR V_MEAS
V1 +18V 0 18
V2 0 -18V 18
V3 3.3V 0 3.3
X§U2 N005 1.65V +18V -18V 1.65V OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R1 3.3V N005 10k
R2 N005 0 10k
X§U9 N002 LCURR +18V -18V N014 N018 NC_01 NC_02 INA828 ;§pnba IN+)IN-)VCC)VEE)OUT)REF)RG+)RG-
R18 N014 N011 39k
X§U11 1.65V N011 +18V -18V N009 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R19 N011 N009 100k
C3 N011 N009 2.2p
R21 N014 N017 13.5k
R20 N012 N009 42.9k
C4 N012 N009 7p
R22 N010 N009 11.1k
C5 N010 N009 22p
R23 N009 N013 11k
C6 N013 1.65V 56p
X§U12 N013 N015 +18V -18V V_MEAS OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R24 N015 N019 1k
R25 V_MEAS N015 9k
S1 N011 N010 N007 0 SW
S2 N011 N012 x3 0 SW
S3 N017 N011 N008 0 SW
S4 1.65V N019 x100 0 SW
X§U1 0 LCURR +18V -18V N002 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
R3 LCURR N002 1Meg
C1 LCURR N002 0.3p
R4 LCURR N006 111k
C7 LCURR N006 3p
R5 LCURR N004 10k
C8 LCURR N004 30p
R6 LCURR N003 1k
C9 LCURR N003 30p
R7 LCURR N001 100
C10 LCURR N001 3n
S5 N006 N002 100k 0 SW
S6 N004 N002 10k 0 SW
S7 N003 N002 1k 0 SW
S8 N001 N002 100 0 SW
R8 0 /4 10k
R9 0 x10 10k
R10 0 x3 10k
R11 0 x100 10k
R12 0 100 10k
R13 0 1k 10k
R26 0 10k 10k
R27 0 100k 10k
R32 x10 0 10k
Q1 N007 x10 0 0 NPN
R33 3.3V N007 10k
R34 /4 0 10k
Q2 N008 /4 0 0 NPN
R35 3.3V N008 10k
R14 N016 N014 2700k
R15 N016 NC_03 300k
R16 N016 NC_04 27k
R17 N016 NC_05 2.7k
X§U3 1.65V N016 +18V -18V N018 OPAx197 ;§pnba IN+)IN-)VCC)VEE)OUT
C2 N018 N016 5.6n
.model SW SW(Ron=0.01, Roff=10G, Vt=1.65)
.ends Iamp

.model NPN NPN
.model PNP PNP
.lib C:\users\yuki\AppData\Local\LTspice\lib\cmp\standard.bjt
* .tran 1m
.ac dec 100 100 100k
* Library below included based on ModelFile attribute of instance X§U9, X§U9 (C:\users\yuki\Documents\LTspice\lib\sym\INA828.asy)
.lib INA828.LIB
* Library below included based on ModelFile attribute of instance X§U2, X§U10, X§U11, X§U12, X§U2, X§U11, X§U12, X§U1, X§U3 (C:\users\yuki\Documents\LTspice\lib\sym\OPAx197.asy)
.lib OPAx197.LIB
.backanno
.end
